US08865623B2
A mixture of 4-(2-ethyl-5-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (100 mg, 0.34 mmol), 2-chloro-4-fluoro-1-nitrobenzene (72 mg, 0.41 mmol), and potassium carbonate (110 mg, 0.69 mmol) in N,N-dimethylformamide (2 ml) is heated to 140° C. under microwave irradiation for 40 minutes. The mixture is cooled to room temperature, poured into 2M aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract is washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-[5-(3-chloro-4-nitrophenoxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(2-ethyl-5-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.34 mmol, 100 mg | C(C)C1=C(C=C(C=C1)O)C1C(C(OC(C1=O)(C)C)(C)C)=O | C17H22O4
reactant | 2-chloro-4-fluoro-1-nitrobenzene | 0.41 mmol, 72 mg | ClC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | potassium carbonate | 0.69 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-[5-(3-chloro-4-nitrophenoxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione | ClC=1C=C(OC=2C=CC(=C(C2)C2C(C(OC(C2=O)(C)C)(C)C)=O)CC)C=CC1[N+](=O)[O-] | C23H24ClNO6
